* C:\Users\chris\Documents\GitHub\uni\Semester_3\Elektronik\Labor\1\1.asc
* Generated by LTspice 26.0.1 for Windows.
V_BE N002 0
V_CE N001 0 5
Q1 N001 N002 0 0 BC547B
.model NPN NPN
.model PNP PNP
.lib C:\Users\chris\AppData\Local\LTspice\lib\cmp\standard.bjt
.dc V_BE 0 0.75 0.002
.include HKAmodel.lib
.OPTIONS ALLOW_AMBIGUOUS_MODELS
.backanno
.end
